US07728026B2
benzyl 2-{[2-amino-3-(aminocarbonyl)phenyl]amino}-1,1-dimethyl-2-oxoethylcarbamate
2-{[(Benzyloxy)carbonyl]amino}-2-methylpropanoic acid (5.18 g, 21.83 mmol) in a mixture of pyridine (25 mL) and DMF (25 mL) was treated with 1,1′-carbonyldiimidazole (3.72 g, 22.92 mmol) and heated at 40° C. for 2 hours. 2,3-Diaminobenzamide dihydrochlolide (4.89 g, 21.83 mmol), prepared as described in WO0026192, was added and the mixture was stirred at room temperature overnight. The solvents were removed under vacuum and the residue was partitioned between ethyl acetate and diluted sodium bicarbonate aqueous solution. The formed slightly yellow solid material was collected by filtration, washed with water and ethyl acetate, and dried to give Example 1A. MS (DCI/NH3) m/z 371 (M+H)+.

reactant | 2-{[(Benzyloxy)carbonyl]amino}-2-methylpropanoic acid | 21.83 mmol, 5.18 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C)C | C12H15NO4
reactant | 1,1′-carbonyldiimidazole | 22.92 mmol, 3.72 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,3-Diaminobenzamide | NC1=C(C(=O)N)C=CC=C1N | C7H9N3O
reactant | NH3 | N | H3N
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | benzyl 2-{[2-amino-3-(aminocarbonyl)phenyl]amino}-1,1-dimethyl-2-oxoethylcarbamate | NC1=C(C=CC=C1C(=O)N)NC(C(C)(C)NC(OCC1=CC=CC=C1)=O)=O | C19H22N4O4
